US06894050B2
Preparation of Intermediate 6′-(3-Chloro-benzylamino)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-2b)
A mixture of (3-chloro-benzyl)-(6-chloro-pyrazin-2-yl)-amine (I-2a) (71.0 mg, 0.28 mmol), piperazine-1-carboxylic acid tert-butyl ester (260.2 mg, 1.40 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (208.9 μL, 1.40 mmol) in 1.0 mL of ethanol was refluxed for 18 h under nitrogen. The reaction was then cooled to ambient temperature and poured into 20 mL of water. This was extracted 2×30 mL of ethyl acetate and the combined organic extracts were washed with 3×15 mL water followed by 15 mL of brine. The organic layer was then dried over sodium sulfate, filtered and concentrated in vacuo to a yellow residue that was chromatographed (prep. TLC, 1:1 hexane:ethyl acetate) to give the title compound (I-2b) as a white solid, 13.5 mg.

reactant | (3-chloro-benzyl)-(6-chloro-pyrazin-2-yl)-amine | 0.28 mmol, 71.0 mg | ClC=1C=C(CNC2=NC(=CN=C2)Cl)C=CC1 | C11H9Cl2N3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.40 mmol, 260.2 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.40 mmol, 208.9 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 20 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 6′-(3-Chloro-benzylamino)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)NCC1=CC(=CC=C1)Cl | C20H26ClN5O2
